US07981874B2
tert-Butyl 3-methyl-2,4-dioxa-9-aza-3-phosphaspiro[5.5]undecane-9-carboxylate 3-oxide.
Et3N (943 μL, 6.76 mmol) and tert-butyl 4,4-bis(hydroxymethyl)piperidine-1-carboxylate (790 mg, 3.22 mmol) were combined in CH2Cl2 (25 mL) and cooled to 0° C. A solution of methylphosphonic dichloride (428 mg, 3.22 mmol) in CH2Cl2 (20 mL) was added dropwise over 1 h. The reaction was then allowed to warm to room temperature over 1 h. It was subsequently diluted with saturated NaHCO3 and extracted with CH2Cl2 (2×). The combined organic layers were washed with brine, dried (MgSO4), and evaporated to give the desired product as a colorless solid that was used without purification. MS: cal'd 306 (MH+), exp 306 (MH+).

reactant | Et3N | 6.76 mmol, 943 μL | CCN(CC)CC | C6H15N
reactant | tert-butyl 4,4-bis(hydroxymethyl)piperidine-1-carboxylate | 3.22 mmol, 790 mg | OCC1(CCN(CC1)C(=O)OC(C)(C)C)CO | C12H23NO4
reactant | methylphosphonic dichloride | 3.22 mmol, 428 mg | CP(=O)(Cl)Cl | CH3Cl2OP
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | tert-Butyl 3-methyl-2,4-dioxa-9-aza-3-phosphaspiro[5.5]undecane-9-carboxylate 3-oxide | CP1(OCC2(CO1)CCN(CC2)C(=O)OC(C)(C)C)=O | C13H24NO5P
